US09034866B2
9-bromo-10-fluoro-3-formyl-2,5-diazatetracyclo[11.1.1.0[2,6].0[7,12]]pentadeca-3,5,7(12),8,10-pentaene-4-carboxylic acid (0.09 g) was reacted with ammonium chloride similar to as described in Example 2 to give 60 mg of 9-bromo-10-fluoro-3-formyl-2,5-diazatetracyclo[11.1.1.0[2,6].0[7,12]]pentadeca-3,5,7(12),8,10-pentaene-4-carboxamide.

reactant | 9-bromo-10-fluoro-3-formyl-2,5-diazatetracyclo[11.1.1.0[2,6].0[7,12]]pentadeca-3,5,7(12),8,10-pentaene-4-carboxylic acid | 0.09 g | BrC1=CC=2C3=NC(=C(N3C3CC(C2C=C1F)C3)C=O)C(=O)O | C15H10BrFN2O3
reactant | ammonium chloride | [Cl-].[NH4+]
product | 9-bromo-10-fluoro-3-formyl-2,5-diazatetracyclo[11.1.1.0[2,6].0[7,12]]pentadeca-3,5,7(12),8,10-pentaene-4-carboxamide | 60 mg | BrC1=CC=2C3=NC(=C(N3C3CC(C2C=C1F)C3)C=O)C(=O)N | C15H11BrFN3O2
